US06887885B2
1-(3-Bromo-4-fluorophenyl)-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one (0.64 g, 2.0 mmol), 4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile (0.99 g, 4.0 mmol) and potassium phosphate (0.68 g, 3.2 mmol) were placed in a flask with 1,4-dioxane (3 ml), and water (2 drops) was added. The mixture was degassed with nitrogen for 15 min before adding tris(dibenzylideneacetone)-dipalladium(0) (90 mg, 0.10 mmol) and tri-tert-butylphosphine (10% wt in hexanes, 0.20 ml, 0.10 mmol). The resulting mixture was heated at 70° C. for 16 h. The reaction mixture was allowed to cool, and then partitioned between dichloromethane (100 ml) and water (100 ml). The organic phase was washed with water (100 ml) and brine (100 ml), dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by flash column chromatography on silica gel, eluting with dichloromethane on a gradient of ethanol (1-4%), gave a white solid. This solid was triturated with ethanol and filtered, yielding pure 5,2′-difluoro-5′-(5-methyl-4-oxo-4,5-dihydroimidazo[4,5-c]pyridin-1-yl)biphenyl-2-carbonitrile as a white solid (423 mg, 60%): δH (400 MHz, d6-DMSO) 3.54 (3H, s), 6.69 (1H, d, J 7), 7.59-7.62 (2H, m), 7.71 (1H, t, J 9), 7.79 (1H, dd, J 9 and 7.84-7.90 (2H, m), 8.16 (1H, dd, J 9 and 6), 8.39 (1H, s); m/z (ES+) 363 [MH+].

reactant | 1-(3-Bromo-4-fluorophenyl)-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one | 2.0 mmol, 0.64 g | BrC=1C=C(C=CC1F)N1C=NC=2C(N(C=CC21)C)=O | C13H9BrFN3O
reactant | 4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | 4.0 mmol, 0.99 g | FC1=CC(=C(C#N)C=C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
reactant | potassium phosphate | 3.2 mmol, 0.68 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | water | 2 drops | O | H2O
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.10 mmol, 90 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 5,2′-difluoro-5′-(5-methyl-4-oxo-4,5-dihydroimidazo[4,5-c]pyridin-1-yl)biphenyl-2-carbonitrile | 423 mg, 60% | FC1=CC=C(C(=C1)C1=C(C=CC(=C1)N1C=NC=2C(N(C=CC21)C)=O)F)C#N | C20H12F2N4O
